US05110894
Synthesis of PEK-PBO Using Intermediate EE-Monomer Containing on Average More Than One Benzoxazole Unit Per EE-Monomer
Under nitrogen atmosphere, 1.00 g (4.69 mmoles) of 4,6-diaminoresorcinol dihydrochloride and 1.62 g (6.26 mmoles) of oxy-bis(4-benzoic acid) are mixed and 29.1 ml of 10-1 methanesulfonic acid solution is added. The mixture is stirred and heated to 95° C. for 24 hours and then cooled to 50° C. A 0.41-g (1.56-mmole) quantity of p-diphenoxybenzene is added and stirring is continued at 50° C. for 48 hours. The resulting copolymer is precipitated in aqueous potassium hydroxide in a blender, washed with water until neutral and dried to constant weight in a vacuum oven at about 50° C. Its inherent viscosity in concentrated sulfuric acid at 25° C. and about 0.2028 g/dL concentration is measured to be about 0.99 dL/g. Its inherent viscosity in methanesulfonic acid at about 0.05 g/dL concentration and about 25° C. is measured to be 4.42 dL/g.

reactant | 4,6-diaminoresorcinol dihydrochloride | 4.69 mmoles, 1.00 g | Cl.Cl.NC1=C(C=C(O)C(=C1)N)O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | p-diphenoxybenzene | O(C1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C18H14O2
product | Benzoxazole | O1C=NC2=C1C=CC=C2 | C7H5NO
